US07553837B2
Step 2: Production of (±)-(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)-(1,3,4,9-tetrahydro-beta-carboline-2-yl)-methanone
0.54 g of (±)-(1,3,4,9-tetrahydro-beta-carboline-2-yl)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-yl)methanone, 1.86 g of zinc, 0.19 g of calcium chloride dehydrate and 30 ml of ethanol were added, followed by heating at reflux overnight. The insoluble matter was filtered through celite and the solvent was distilled off. The reaction solution was mixed with water, extracted with chloroform, washed with saturated saline and dried over anhydrous magnesium sulfate and, after the solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:ethyl acetate=50:1) to obtain 0.19 g of the objective product (melting point: 129-133° C.)

reactant | (±)-(1,3,4,9-tetrahydro-beta-carboline-2-yl)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-yl)methanone | 0.54 g | C1N(CCC=2C3=CC=CC=C3NC12)C(=O)C1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C | C24H27N3O4
reactant | calcium chloride | 0.19 g | [Cl-].[Ca+2].[Cl-]
catalyst | zinc | 1.86 g | [Zn] | Zn
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (±)-(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)-(1,3,4,9-tetrahydro-beta-carboline-2-yl)-methanone | 0.19 g | NC=1C(=C(C2=C(CC(O2)(C)C(=O)N2CC=3NC4=CC=CC=C4C3CC2)C1C)C)C | C24H27N3O2
